US05177075
3,4-Dihydro-5-[3-(1-piperidinyl)propoxy]-1(2H)-isoquinolinone
A mixture of 0.6 g (2.5 mmol) of 5-(3-chloropropoxy)-3,4-dihydro-1(2H)-isoquinolinone and 0.6 ml (10 mmol) of piperidine in 30 ml of ethanol was refluxed for 40 hours. The mixture was concentrated, dissolved in chloroform and washed with saturated sodium bicarbonate. The organic layer was dried and concentrated. The solid was recrystallized from water to provide 0.44 g (61%) of the desired product; mp 112°-114°.

reactant | 5-(3-chloropropoxy)-3,4-dihydro-1(2H)-isoquinolinone | 2.5 mmol, 0.6 g | ClCCCOC1=C2CCNC(C2=CC=C1)=O | C12H14ClNO2
reactant | piperidine | 10 mmol, 0.6 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3,4-Dihydro-5-[3-(1-piperidinyl)propoxy]-1(2H)-isoquinolinone | 0.44 g, 61% | N1(CCCCC1)CCCOC1=C2CCNC(C2=CC=C1)=O | C17H24N2O2
